US06989392B2
8-(benzyloxy)quinolin-2-amine
A 20 mL scintillation vial with a septum cap was charged with PS-PPh3 resin (Aldrich Chemical Co., Inc, 100 mg, 2.2 equiv), 2-amino-8-hydroxyquinoline (22 mg, 0.14 mmol) and DBAD (51 mg, 1.6 equiv) and purged by passing a stream of N2 for 45 seconds. Anhydr. THF (3 mL) was added and the contents of the vial were shaken for 5 min. Then, a solution of benzyl alcohol (1.25 equiv) in anhydr. THF (1 mL) was added and the resulting suspension was shaken at room temperature for 8 h. The suspension was filtered, and the resin washed with THF (2.5, 3.5 and 3.0 mL). The filtrate and washings were combined and evaporated in vacuo. The resulting crude product was then dissolved in a mixture of DCM (1 mL), thf (1 mL) and MeOH (3 mL) and the solution was added to MP-TsOH resin (Argonaut Technologies, Inc., 0.5 g). The resulting suspension was agitated at room temperature for 1.5 h. The supernatant was subsequently drained and the resin was washed with DCM (2 mL), MeOH (2 mL), THF (2 mL) and DCM (2 mL). The washed resin was treated with 2 N NH3 in MeOH (4 mL) at room temperature for 1 h. The supernatant was collected and the resin was washed with MeOH (3 mL) and DCM (3 mL). The washes were combined with the collected supernatant. The NH3/MeOH treatment and washes were then repeated. The filtrate and the washes were combined with previously collected and evaporated in vacuo. The residue was dissolved in 1.5 mL of a 1:1 mixture of DMSO/MeOH and purified by preparative reverse-phase HPLC. 1H NMR (500 MHz, CDCl3) δ ppm 7.83 (d, 1H), 7.50 (m, 2H), 7.37 (m, 2H), 7.30 (m, 1H), 7.20 (dd, 1H), 7.08 (t, 1H), 6.95 (dd, 1H), 6.68 (d, 1H), 5.38 (s, 2H); MS (DCI/NH3) m/z 251 [M+H]+.

reactant | PPh3 | 100 mg, 2.2 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-amino-8-hydroxyquinoline | 0.14 mmol, 22 mg | NC1=NC2=C(C=CC=C2C=C1)O | C9H8N2O
reactant | DBAD | 51 mg, 1.6 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | benzyl alcohol | 1.25 equiv | C(C1=CC=CC=C1)O | C7H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 8-(benzyloxy)quinolin-2-amine | C(C1=CC=CC=C1)OC=1C=CC=C2C=CC(=NC12)N | C16H14N2O
